US07709503B2
Intermediate 25: Ethyl 4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-oxobutanoate
The title compound was prepared in a manner analogous to Intermediate 123 starting from 2,2-dimethyl-1,3-dioxane-4,6-dione and (1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetyl chloride.

reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | (1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetyl chloride | O=C1N(C(C2=CC=CC=C12)=O)CC(=O)Cl | C10H6ClNO3
product | Ethyl 4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-oxobutanoate | O=C1N(C(C2=CC=CC=C12)=O)CC(CC(=O)OCC)=O | C14H13NO5
